US06441017B1
Step A: Benzyl 3,5-dichlorophenyl Ether
To a stirred mixture of 3,5-dichlorophenol (3.00 g, 18.4 mmol) and Cs2CO3 (12.0 g, 36.8 mmol) in dry, degassed DMF (150 mL) was added benzyl bromide (3.46 g, 20.2 mmol) dropwise. The reaction mixture was heated to 45° C. for 18 hours, then the solvent was removed under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 (75 mL) and CH2Cl2 (100 mL). The aqueous layer was extracted further with CH2Cl2 (25 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—2% EtOAc to yield the desired product as a colorless oil.

reactant | 3,5-dichlorophenol | 18.4 mmol, 3.00 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | Cs2CO3 | 36.8 mmol, 12.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 20.2 mmol, 3.46 g | C(C1=CC=CC=C1)Br | C7H7Br
product | Benzyl 3,5-dichlorophenyl Ether | ClC=1C=C(C=C(C1)Cl)OCC1=CC=CC=C1 | C13H10Cl2O
